US05026715
A. 1-(2-Methyl-1-phenylsulfonylpyrrol-4-yl)-2-bromoethanone
A solution of 13.3 g (50 mmole) of 1-(2-methyl-1-phenylsulfonyl-pyrrol-4-yl)-1-ethanone in 320 ml of chloroform was stirred at -10° C. and a solution of 2.56 ml (8.0 g, 50 mmole) of bromine in 40 ml of chloroform was added dropwise over six hours. After the addition was completed, the mixture was stirred at -10° C. for 0.5 hours, then allowed to warm to room temperature. The mixture was concentrated, and the residue was chromatographed over silica gel using 1:1:0.1 hexane/toluene/ethyl acetate as eluent to give 10.0 g (59%) of the product as a white solid; m.p. 86°-88° C.

reactant | 1-(2-methyl-1-phenylsulfonyl-pyrrol-4-yl)-1-ethanone | 50 mmole, 13.3 g | CC=1N(C=C(C1)C(C)=O)S(=O)(=O)C1=CC=CC=C1 | C13H13NO3S
reactant | bromine | 50 mmole, 2.56 ml, 8.0 g | BrBr | Br2
solvent | chloroform | 320 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-Methyl-1-phenylsulfonylpyrrol-4-yl)-2-bromoethanone | 10.0 g, 59% | CC=1N(C=C(C1)C(CBr)=O)S(=O)(=O)C1=CC=CC=C1 | C13H12BrNO3S
